US06369002B1
Preparation of 2-(5-chloro-3-fluoro-pyridin-2-yl)-4-methyl-5-trifluoromethyl-2H-pyridazin-3-one (608.001)
A solution of 8.09 g 3((5-chloro-3-fluoro-pyridine-2-yl) -hydrazono)-1,1,1-trifluoro-propan-2-one and 11.5 g 1-carbomethoxyethylidene triphenylphosphine in 200 ml dioxane was stired for 30 min. at 20° C. and then heated until complete conversion at 50° C. The reaction mixture was diluted with hexane, filtered from solid triphenylphosphine oxide through silicagel and evaporated. Further purification of the residue on silicagel (ethyl acetate-hexane 3:7) led to the desired product with m.p. 91-93° C.

reactant | 3((5-chloro-3-fluoro-pyridine-2-yl) -hydrazono)-1,1,1-trifluoro-propan-2-one | 8.09 g | ClC=1C=C(C(=NC1)NN=CC(C(F)(F)F)=O)F | C8H4ClF4N3O
reactant | 1-carbomethoxyethylidene triphenylphosphine | 11.5 g | C(=O)(OC)C(C)=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
solvent | hexane | CCCCCC | C6H14
product | 2-(5-chloro-3-fluoro-pyridin-2-yl)-4-methyl-5-trifluoromethyl-2H-pyridazin-3-one | ClC=1C=C(C(=NC1)N1N=CC(=C(C1=O)C)C(F)(F)F)F | C11H6ClF4N3O
